US09403768B2
Piperidine (0.1 mL, 1.01 mmol, Eq: 9.86) was added to a solution of (S)-(9H-fluoren-9-yl)methyl 1-(2-(2,6-difluorophenylcarbamoyl)-3,3-dimethylindolin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate (71 mg, 102 μmol, Eq: 1.00) in DCM (2 mL) and the resulting solution was stirred at rt for 3 h. The reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography (silica gel, 4 g, 0% to 10% MeOH in DCM) to give (S)-1-(2-amino-3-methylbutanoyl)-N-(2,6-difluorophenyl)-3,3-dimethylindoline-2-carboxamide (32 mg).

reactant | Piperidine | 1.01 mmol, 0.1 mL | N1CCCCC1 | C5H11N
reactant | (S)-(9H-fluoren-9-yl)methyl 1-(2-(2,6-difluorophenylcarbamoyl)-3,3-dimethylindolin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 102 μmol, 71 mg | FC1=C(C(=CC=C1)F)NC(=O)C1N(C2=CC=CC=C2C1(C)C)C([C@H](C(C)C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O | C37H35F2N3O4
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-(2-amino-3-methylbutanoyl)-N-(2,6-difluorophenyl)-3,3-dimethylindoline-2-carboxamide | 32 mg | NC(C(=O)N1[C@@H](C(C2=CC=CC=C12)(C)C)C(=O)NC1=C(C=CC=C1F)F)C(C)C | C22H25F2N3O2
